US06495564B1
4F. 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-2-phenylsulfanyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one
2,2,6,6-tetramethylpiperdine (4.5 mL, 26.5 mMol) was dissolved in a solution of anhydrous THF (100 mL) and anhydrous 1,2-dimethoxyethane (50 mL) under an atmosphere of dry N2 and the solution was then cooled to −78° C. To this solution was added 2.5 M n-butyllithium in hexanes (9.6 mL, 24.1 mMol) and the mixture was stirred for 20 minutes. To this solution was added 1-methyl-2-phenylthio-1-H-imidazole (4.58 g, 24.1 mMol) and the solution was stirred at −78° C. for 45 minutes. 6-(4-Chloro-benzoyl)-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one (9.64 g, 24.1 mMol) was then added and the solution was slowly warmed to ambient temperature and stirred overnight. The reaction was quenched with saturated aqueous NH4Cl and the solution was partitioned between water and EtOAc. The aqueous layer was washed 2 more times with EtOAc. The EtOAc extracts were combined and dried over Na2SO4, filtered and concentrated under vacuum to give a yellow oil. The oil was chromatographed on flash silica gel eluting with a gradient from EtOAc/hexanes (1:1) to EtOAc/hexanes (4:1) to give 8.66 g of the titled compound as a foam.

reactant | 2,2,6,6-tetramethylpiperdine | 26.5 mMol, 4.5 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-methyl-2-phenylthio-1-H-imidazole | 24.1 mMol, 4.58 g | CN1C(=NC=C1)SC1=CC=CC=C1 | C10H10N2S
reactant | 6-(4-Chloro-benzoyl)-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one | 24.1 mMol, 9.64 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)C=C)C=C1 | C25H18ClNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-2-phenylsulfanyl-3H-imidazol-4-yl)-methyl]-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one | 8.66 g | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)C=C)(C=1N(C(=NC1)SC1=CC=CC=C1)C)O | C35H28ClN3O2S
